US05849912
Synthesis of ethyl 2-chloro-3-bromo-5-aminobenzoate
2.25 kg (7.3 mol) of ethyl 2-chloro-3-bromo-5-nitrobenzoate was dissolved in a mixture comprising 4000 ml of concentrated hydrochloric acid and 4000 ml of ethanol. 1 kg of powdered iron was added to the obtained solution in portions so as to maintain the bulk temperature at 80° C. The reaction mixture was cooled, followed by the addition of a saturated brine. The resulting mixture was extracted with ethyl acetate. The organic phase was dried and concentrated under reduced pressure to give 1.8 kg of the title compound as a colorless oil.

reactant | ethyl 2-chloro-3-bromo-5-nitrobenzoate | 7.3 mol, 2.25 kg | ClC1=C(C(=O)OCC)C=C(C=C1Br)[N+](=O)[O-] | C9H7BrClNO4
solvent | hydrochloric acid | 4000 ml | Cl | ClH
solvent | ethanol | 4000 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
catalyst | iron | 1 kg | [Fe] | Fe
product | ethyl 2-chloro-3-bromo-5-aminobenzoate | 1.8 kg | ClC1=C(C(=O)OCC)C=C(C=C1Br)N | C9H9BrClNO2
